US08067408B2
1,1-Dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperazinecarboxylate
To a solution of [(3-bromophenyl)methyl]amine hydrochloric salt (0.556 g, 2.5 mmol) in 1,4-dioxane (15 mL) and H2O (5 mL) was added {3-[(4-{[(1,1-dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]phenyl}boronic acid (1.041 g, 3.25 mmol), Pd(PPh3)4 (0.144 g, 0.125 mmol), K2CO3 (1.382 g, 10 mmol) and was heated in a microwave at 150° C. for 15 min. The organic layer was separated, dried with a Glas-Col evaporator, then was purified by CombiFlash chromatograph to afford 0.798 g (84%) of the title compound. LC-MS m/z 382 (M+H)+.

reactant | [(3-bromophenyl)methyl]amine | 2.5 mmol, 0.556 g | BrC=1C=C(C=CC1)CN | C7H8BrN
reactant | {3-[(4-{[(1,1-dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]phenyl}boronic acid | 3.25 mmol, 1.041 g | CC(C)(C)OC(=O)N1CCN(CC1)CC=1C=C(C=CC1)B(O)O | C16H25BN2O4
reactant | K2CO3 | 10 mmol, 1.382 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.125 mmol, 0.144 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-Dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperazinecarboxylate | 0.798 g, 84% | NCC=1C=C(C=CC1)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C23H31N3O2
